US07776910B2
5-Bromo-2-iodo-benzoic acid ethyl ester (3.93 g, 11.07 mmol), triisopropylsilanyl-1H-pyrrole-3-boronic acid (2.96 g, 11.07 mmol), PdCl2dppf (443 mg, 0.55 mmol) and CsCO3 (4.32 g, 13.28 mmol) were dissolved in 100 ml of a mixture of DME and Water (9:1). The mixture was heated to 80° C. overnight. Upon cooling, the mixture was diluted with water and extracted with Et2O. The ether extracts were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was immediately diluted in THF. (Boc)2O (2.42 g, 11.07 mmol) was added followed by TBAF (11.07 ml, 11.07 mmol). The mixture was allowed to stir for 2 hours at room temperature, the mixture was diluted with water, extracted with Et2O. The combined ether extracts were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give 1.648 g (37.77%) of 3-(4-bromo-2-ethoxycarbonyl-phenyl)-pyrrole-1-carboxylic acid tert-butyl ester as a clear oil which used in step 3 without further purification.

reactant | 5-Bromo-2-iodo-benzoic acid ethyl ester | 11.07 mmol, 3.93 g | C(C)OC(C1=C(C=CC(=C1)Br)I)=O | C9H8BrIO2
reactant | triisopropylsilanyl-1H-pyrrole-3-boronic acid | 11.07 mmol, 2.96 g | C(C)(C)[Si](C(C)C)(C(C)C)N1C=C(C=C1)B(O)O | C13H26BNO2Si
reactant | (Boc)2O | 11.07 mmol, 2.42 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TBAF | 11.07 mmol, 11.07 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DME | COCCOC | C4H10O2
solvent | Water | O | H2O
product | 3-(4-bromo-2-ethoxycarbonyl-phenyl)-pyrrole-1-carboxylic acid tert-butyl ester | 1.648 g, 37.77% | C(C)(C)(C)OC(=O)N1C=C(C=C1)C1=C(C=C(C=C1)Br)C(=O)OCC | C18H20BrNO4
